US06303733B1
Thus a reaction mixture is formed by dissolving appropriate amounts of 1-ethynyl-4-fluorobenzene, 3-bromo-4′-fluorobenzophenone, and tetrakis(triphenylphosphine)palladium[0] in a de-aerated aprotic solvent, for example, triethylamine. Alternatively, toluene can be used as a first solvent and triethylamine added as a cosolvent in a stoichiometric equivalent to 3-bromo-4′-fluorobenzophenone. The reaction mixture is heated to 80° C. with stirring under an inert atmosphere, e.g. argon, for approximately three hours. The reaction mixture is then allowed to cool to ambient while stirring is continued for approximately 16 hours. A white precipitate of triethylamine hydrobromide is removed by filtration and the aprotic solvents employed are removed by evaporation. The resulting solids are dissolved in a solvent, e.g. dichloromethane, or preferably toluene due to its relatively higher environmental friendliness, and then washed with water, an aqueous 2% HCl solution, brine, and then dried. After solvent evaporation, a good yield of white crystalline 4-fluoro-3′-(4-fluorobenzoyl)tolane, melting at approximately 127-128° C. is obtained. Purification by recrystallization from acetone results in a material with a melting point of 130-131° C. Alternatively, recrystallization from toluene provide a crystalline material in the form of rhombic fine needles with a melting point of 135-136° C.

reactant | 1-ethynyl-4-fluorobenzene | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | 3-bromo-4′-fluorobenzophenone | BrC=1C=C(C(=O)C2=CC=C(C=C2)F)C=CC1 | C13H8BrFO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-fluoro-3′-(4-fluorobenzoyl)tolane | FC1=CC=C(C=C1)C#CC1=CC(=CC=C1)C(C1=CC=C(C=C1)F)=O | C21H12F2O
